US08486940B2
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.400 g, 3 mmol), 3,4-dimethoxybenzaldehyde (0.5 g, 3 mmol), TMSCN (0.375 mL, 3 mmol), Pd/C (10%, 0.02 g), TEA 1.05 mL, 7.5 mmol), di-(imidazol-1-yl)methanone (0.730 g, 4.5 mmol) as described in method 2 to give 1-(1H-benzo[d]imidazol-5-yl)-5-(3,4-dimethoxyphenyl)imidazolidin-2-one

reactant | 1H-benzo[d]imidazol-5-amine | 3 mmol, 0.400 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 3,4-dimethoxybenzaldehyde | 3 mmol, 0.5 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | TMSCN | 3 mmol, 0.375 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 4.5 mmol, 0.730 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
catalyst | Pd/C | 0.02 g | [Pd] | Pd
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3,4-dimethoxyphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=C(C=C2)OC)OC)=O | C18H18N4O3
